*	NXP Semiconductors 								
*	GUMMEL-POON Transistor MODEL IN SPICE SYNTAX					
*	BFU710F Model in SOT343F							
*	VALID UP TO 4 GHZ						
*	October 2010									
*	This file includes parameters for chip of BFU710 in package SOT343F.
*	BEGIN OF MODEL-DEFINITIONS								
* 	transistor:BFU710F
* 	1:COLLECTOR; 2: BASE; 3: EMITTER											
*	.OPTION TNOM = 25, 

.SUBCKT BFU710F 1 2 3		
Q1 11 22 33 33 Chip_710 Area=1 Region=1 Temp=25 Trise=0 Mode=1 Noise=yes M=1

*package SOT343F		

Rb2x	22 24	1.07413
Rc2x	11 12	1.0494
Lb2x	22 24	6.6493e-11
Lc2x	11 12	6.67134e-11
Cbe1	25 33	1.575795e-13
Cbe2	22 23	6.4818e-014
Cce1	13 33	1.3083644e-13
Cce2	11 14	4.91284e-14
Cbc1	25 28	3.101589e-15
Cbc2	15 22	9.55071e-15
Lb1	 2 25	2.82948e-10
Lb2	24 25	7.31262e-10
Lc1	 1 13	4.805e-15
Lc2	12 13	3.84827e-10
Le1	 3 33	7.94063e-11
Rbc2	11 15	147.447
Rbc1	13 28	855.844
Rbe2	23 33	7.31739
Rce2	14 33	8.25899						
									
.MODEL Chip_710 NPN
+	Is   = 59.79E-18 
+	Bf   = 275.1 
+	Nf   = 992.6e-3 
+	Vaf  = 10.34  
+	Ikf  = 24.45e-3 
+	Ise  = 24.75e-15 
+	Ne   = 2.024  
+	Br   = 81.44  
+	Nr   = 980.0e-3 
+	Var  = 4.245  
+	Ikr  = 3.620e-3 
+	Isc  = 100.0e-18 
+	Nc   = 1.578  
+	Rb   = 3.32 
+	Irb  = 12.17e-3
+	Rbm  = 1.2 
+	Re   = 1.841  
+	Rc   = 50.31  
+	Cje  = 70.04e-15 
+	Vje  = 665.6e-3 
+	Mje  = 109.9e-3 
+	Cjc  = 21.67e-15 
+	Vjc  = 639.9e-3 
+	Mjc  = 267.9e-3 
+	Xcjc = 1.000  
+	Cjs  = 298.9e-15 
+	Vjs  = 360.9e-3
+	Mjs  = 661.7e-3 
+	Fc   = 500.0e-3
+	Xtf  = 43.92 
+	Tf   = 1.3236e-12
+	Vtf  = -17.68 
+	Itf  = 89e-3 
+	Ptf  = 75.6 
+	Tr   = 1.7e-12 
+	Eg   = 1.110  
+	Xtb  = 0.000  
+	Xti  = 3.000  
.ENDS